US08609653B2
2-(tert-butoxy)-2-(4-(chroman-6-yl)-1-(cyclobutylmethyl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetic acid
The title compound was prepared in a manner similar to that described in Example 27, Step H from methyl 2-(tert-butoxy)-2-(4-(chroman-6-yl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetate and (bromomethyl)cyclobutane. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.49-7.43 (m, 1 H), 7.21-7.13 (m, 2 H), 6.99-6.93 (m, 1 H), 6.34 (dd, J=3.5, 7.8 Hz, 1 H), 5.51 (d, J=3.9 Hz, 1 H), 4.54-4.37 (m, 2 H), 4.30 (t, J=5.2 Hz, 2 H), 2.96-2.80 (m, 6H), 2.17-2.05 (m, 4 H), 1.99-1.79 (m, 4 H), 0.99-0.90 (s, 9 H); LC/MS (m/z) ES+=463.37 (M+1).

reactant | methyl 2-(tert-butoxy)-2-(4-(chroman-6-yl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetate | C(C)(C)(C)OC(C(=O)OC)C=1C(=C2C(=NC1C)NC=C2)C=2C=C1CCCOC1=CC2 | C24H28N2O4
reactant | (bromomethyl)cyclobutane | BrCC1CCC1 | C5H9Br
product | 2-(tert-butoxy)-2-(4-(chroman-6-yl)-1-(cyclobutylmethyl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetic acid | C(C)(C)(C)OC(C(=O)O)C=1C(=C2C(=NC1C)N(C=C2)CC2CCC2)C=2C=C1CCCOC1=CC2 | C28H34N2O4
